US04879296
α-Amino-p-tolunitrile (prepared from α-bromotolunitrile in a modification of the method described by J.H. Short and T.D. Darby, J. Med. Chem., 10 (5), 833, 1967) was treated first with methyl isocyanate followed by cyanoacetic acid according to the method of V. Papesch and E. F. Schroeder (J. Org. Chem., 1951, 16, 1879) to yield 4-[(6-amino-1,2,3,4-tetrahydro-3-methyl-2,4-dioxo-1-pyrimidinyl)methyl]benzonitrile, which was then nitrosated, reduced, and condensed with 4-formylcinnamic acid following an analogous procedure to that of Example 3 to give the title compound as a yellow solid with a melting point greater than 350° C. Analysis for (C23H17N5O4): C, 64.63; H, 4.01; N, 16.38. Found: C, 64.58; H, 4.06; N, 16.36.

reactant | α-Amino-p-tolunitrile | NCC1=CC=C(C=C1)C#N | C8H8N2
reactant | α-bromotolunitrile | BrCC=1C(=CC=CC1)C#N | C8H6BrN
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
product | 4-[(6-amino-1,2,3,4-tetrahydro-3-methyl-2,4-dioxo-1-pyrimidinyl)methyl]benzonitrile | NC1=CC(N(C(N1CC1=CC=C(C#N)C=C1)=O)C)=O | C13H12N4O2
